US08865736B2
2,6-Difluoro-3-[4-(3-methoxy-phenyl)-thiazol-2-ylmethoxy]-benzamide
To the solution of 3-[5-bromo-4-(3-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide (0.50 g, 1.10 mmol) in the 10 ml of acetic acid was added Zn dust (0.50 g, w/w). The reaction mixture was heated at 120° C. for 1 h. After the completion of the reaction mixture (TLC monitoring), water (50 mL) was added and pH was adjusted to 8-9 with NaOH solution and extracted with ethyl acetate (3×100 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated to get the desired product (0.22 g, 53%).

reactant | 3-[5-bromo-4-(3-methoxy-phenyl)-thiazol-2-ylmethoxy]-2,6-difluoro-benzamide | 1.10 mmol, 0.50 g | BrC1=C(N=C(S1)COC=1C(=C(C(=O)N)C(=CC1)F)F)C1=CC(=CC=C1)OC | C18H13BrF2N2O3S
reactant | water | 50 mL | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | Zn | 0.50 g | [Zn] | Zn
product | 2,6-Difluoro-3-[4-(3-methoxy-phenyl)-thiazol-2-ylmethoxy]-benzamide | 0.22 g, 53% | FC1=C(C(=O)N)C(=CC=C1OCC=1SC=C(N1)C1=CC(=CC=C1)OC)F | C18H14F2N2O3S
